US06531477B1
Part A: To a stirred suspension of 4.33 g (18.5 mmol) of ethyl 4-amino-3,5-dichlorobenzoate in 8 mL conc. HCl at 0° C. was added a solution of 1.28 g (18.5 mmol) of sodium nitrite in 8 mL water dropwise. After stirring at 0° C. for 45 min, a solution of 12.52 g (55.5 mmol) tin(II) chloride in 14 mL conc. HCl was added dropwise. The reaction was sealed and placed in the refrigerator for 18 h. The solid was collected by suction filtration, washed with brine and then 2:1 petroleum ether-diethyl ether, treated with 1 N NaOH, and filtered. This solid was dissolved in diethyl ether, acidified with 4 N HCl in dioxane, filtered and washed with diethyl ether to give 2.85 g (54%) of ethyl 3,5-dichloro-4-hydrazinobenzoate hydrochloride, mp 225-227 (dec)° C. Mass Spec.: (CI+) 249 (M+).

reactant | ethyl 4-amino-3,5-dichlorobenzoate | 18.5 mmol, 4.33 g | NC1=C(C=C(C(=O)OCC)C=C1Cl)Cl | C9H9Cl2NO2
reactant | sodium nitrite | 18.5 mmol, 1.28 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride | 55.5 mmol, 12.52 g | [Sn](Cl)Cl
solvent | HCl | 8 mL | Cl | ClH
solvent | water | 8 mL | O | H2O
solvent | HCl | 14 mL | Cl | ClH
product | ethyl 3,5-dichloro-4-hydrazinobenzoate hydrochloride | 2.85 g, 54% | Cl.ClC=1C=C(C(=O)OCC)C=C(C1NN)Cl | InChI=1S/C9H10Cl2N2O2.ClH/c1-2-15-9(14)5-3-6(10)8(13-12)7(11)4-5;/h3-4,13H,2,12H2,1H3;1H
